US05366656
Preparation of para-decyloxy benzoic acid
2.11 g of sodium hydroxide was dissolved in 50 ml of ethyl alcohol and to the solution were added 2.6 g of para-hydroxy benzoic acid and 5.8 ml of 1-bromodecane. After the mixture was refluxed for 15 hours, 25 ml of 10% aqueous sodium hydroxide solution was added and refluxed for another two hours. After cooling, concentrated HCl was dropped into the solution until it was acidic. Filtration and recrystallization from ethyl alcohol gave 3.8 g of pure product (yield 73%).

reactant | sodium hydroxide | 2.11 g | [OH-].[Na+]
reactant | para-hydroxy benzoic acid | 2.6 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 1-bromodecane | 5.8 ml | BrCCCCCCCCCC | C10H21Br
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
product | para-decyloxy benzoic acid | 3.8 g, yield 73% | C(CCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C17H26O3
